US07723330B2
Step A: Preparation of 1-(4-methoxybenzyl)-4-(5-chloro-2-methyl-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine:
A stirred mixture of 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (255 g, 999 mmol, prepared using the procedure described in Example 1, Step B), 1-chloro-5-fluoro-4-methyl-2-nitrobenzene (94.7 g, 499 mmol), cesium carbonate (325 g, 1.0 mol) and DMF (2 L) was heated to 95° C. for 6 hours. The reaction was cooled to ambient temperature and partitioned between EtOAc and water. The phases were filtered and then separated. The aqueous phase was re-extracted with EtOAc. The combined organic phases were washed with water, brine, dried (Na2SO4), filtered, and concentrated in vacuo. The crude was purified by Biotage Flash 75 L chromatographic system, eluting with 5% EtOAc/hexanes (12 L), 10% EtOAc/hexanes (6 L), 20% EtOAc/hexanes (6 L), then 30% EtOAc/hexanes (6 L). The product was obtained as a viscous oil (42 g, 9%).

reactant | 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | COC1=CC=C(CN2N=CC3=C2N=CC=C3O)C=C1 | C14H13N3O2
reactant | 1-chloro-5-fluoro-4-methyl-2-nitrobenzene | 499 mmol, 94.7 g | ClC1=C(C=C(C(=C1)F)C)[N+](=O)[O-] | C7H5ClFNO2
reactant | cesium carbonate | 1.0 mol, 325 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 L | CN(C)C=O | C3H7NO
product | 1-(4-methoxybenzyl)-4-(5-chloro-2-methyl-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine | 42 g, 9% | COC1=CC=C(CN2N=CC=3C2=NC=CC3OC3=C(C=C(C(=C3)Cl)[N+](=O)[O-])C)C=C1 | C21H17ClN4O4
